* bias_core_settle_flag -- LVS reference for layout/bias_core_settle_flag/cell.json
*
* NOT an xschem export. Hand-extracted, verbatim (device cards unmodified
* except for the wrapping .subckt/.ends and the eleven top-level port
* names), from design/netlist/bias_core.spice's own XMPOK/XMOKA/XMOKB/
* XMOL1/XMOL2/XMOKC/XMOK2/XMOK2P/XMO1P/XMO1N device cards -- the settle-flag
* comparator/driver chain that produces bias_core's own BIAS_OK output.
* Every device card below must stay byte-for-byte identical to the
* corresponding line in design/netlist/bias_core.spice (continuation lines
* included); if design/bias_core.sch's device group ever changes, this file
* needs the same change or layout/bin/compose-cell.py's LVS step (comparing
* against this file) stops meaning anything.
*
* Port list: the eleven nodes this device group shares with the rest of
* bias_core. VDD/VSS are the rails; TOK is this group's own internal gated
* supply but is declared a port anyway (it is a two-pin-visible node in the
* full cell only through these three devices, so declaring it changes
* nothing electrically and keeps the port list a pure "nodes named by these
* ten cards" list); NA/NBTOP/NKG are inputs from the mirror/error-amp stack
* (#35) and the startup kick chain (#38); NOKX is shared with XCOK in the
* passives sub-block (#37); BIAS_OK is bias_core's own top-level output.
.subckt bias_core_settle_flag VDD VSS TOK PB NA NBTOP NOKO NOKL NKG NOKX BIAS_OK
XMPOK TOK PB VDD VDD sky130_fd_pr__pfet_g5v0d10v5 L=4 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0
+ mult=1 m=1
XMOKA NOKO NA TOK VDD sky130_fd_pr__pfet_g5v0d10v5 L=4 W=8 nf=1 ad=2.32 as=2.32 pd=16.58 ps=16.58 nrd=0.03625 nrs=0.03625 sa=0
+ sb=0 sd=0 mult=1 m=1
XMOKB NOKL NBTOP TOK VDD sky130_fd_pr__pfet_g5v0d10v5 L=4 W=8 nf=1 ad=2.32 as=2.32 pd=16.58 ps=16.58 nrd=0.03625 nrs=0.03625 sa=0
+ sb=0 sd=0 mult=1 m=1
XMOL1 NOKL NOKL VSS VSS sky130_fd_pr__nfet_g5v0d10v5 L=4 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0
+ sd=0 mult=1 m=1
XMOL2 NOKO NOKL VSS VSS sky130_fd_pr__nfet_g5v0d10v5 L=4 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0
+ sd=0 mult=1 m=1
XMOKC NOKO NKG VSS VSS sky130_fd_pr__nfet_g5v0d10v5 L=1 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0
+ sd=0 mult=1 m=1
XMOK2 NOKX NOKO VSS VSS sky130_fd_pr__nfet_g5v0d10v5 L=4 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0
+ sd=0 mult=1 m=1
XMOK2P NOKX PB VDD VDD sky130_fd_pr__pfet_g5v0d10v5 L=4 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0
+ mult=1 m=1
XMO1P BIAS_OK NOKX VDD VDD sky130_fd_pr__pfet_g5v0d10v5 L=4 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0
+ sd=0 mult=1 m=1
XMO1N BIAS_OK NOKX VSS VSS sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725 nrs=0.0725 sa=0
+ sb=0 sd=0 mult=1 m=1
.ends
